US08445684B2
3-[2-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethylamine
3-[2-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethyl azide is dissolved in ethanol, and a catalytic amount of PtO2 is added. The reaction flask is attached to a H2 balloon by way of a three-way stopcock, and the atmosphere is exchanged. The mixture is stirred at room temperature. The reaction is followed by TLC and terminated by replacing the atmosphere with N2 when the starting material has disappeared. The catalyst is removed by centrifugation or filtration over a filter membrane. The solution is evaporated and the residue used directly in the following step. If desired, the product can be purified by CC on silica gel eluting with CH2Cl2/methanol/Et3N or CH2Cl2/methanol/conc. aqueous NH3, or on deactivated basic alumina with CH2Cl2/methanol.

reactant | 3-[2-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethyl azide | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)CCC=1C=C(C=CC1)CN=[N+]=[N-] | C23H29N5O3
solvent | ethanol | C(C)O | C2H6O
catalyst | PtO2 | O=[Pt]=O
product | 3-[2-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethylamine | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)CCC=1C=C(C=CC1)CN | C23H31N3O3
